### PR TITLE
[Merged by Bors] - add pi-type AffineMaps

### PR DESCRIPTION
**Pull request by Timeroot**
This adds AffineMap.pi, and some related extensionality lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 1]
```diff
@@ -757,6 +771,124 @@ def toConstProdLinearMap : (V1 →ᵃ[k] V2) ≃ₗ[R] V2 × (V1 →ₗ[k] V2) w
...
+-- so a non-dependent pi construction pi' is also given with corresponding theorems.
+
+variable {ι : Type*} {φv φp : ι → Type*} [(i : ι) → AddCommGroup (φv i)]
+  [(i : ι) → Module k (φv i)] [(i : ι) → AffineSpace (φv i) (φp i)]
+
+/-- The dependently-typed version of `AffineMap.pi`, where the module `V1 := φv i` and the
+ AffineSpace `P2 := φp i` can depend on the index `i : ι`.
+-/
+def pi (f : (i : ι) → (P1 →ᵃ[k] φp i)) : P1 →ᵃ[k] ((i : ι) → φp i) where
+  toFun := fun m a ↦ (f a).1 m
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:787]: Again, using `.1` is fragile. You can make this more concise as
```suggestion
  toFun m a := f a m
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 2]
```diff
@@ -757,6 +771,124 @@ def toConstProdLinearMap : (V1 →ᵃ[k] V2) ≃ₗ[R] V2 × (V1 →ₗ[k] V2) w
...
+  linear := LinearMap.pi (fun a ↦ (f a).2)
+  map_vadd' := fun _ _ ↦ funext fun a ↦ (f a).3 _ _
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:789]:
```suggestion
  map_vadd' _ _ := funext fun _ ↦ map_vadd _ _ _
```
probably works

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 3]
```diff
@@ -757,6 +771,124 @@ def toConstProdLinearMap : (V1 →ᵃ[k] V2) ≃ₗ[R] V2 × (V1 →ₗ[k] V2) w
...
+
+theorem proj_pi' (i : ι) : (proj i).comp (pi' f') = f' i :=
+  ext fun _ => rfl
+
+/-- The `AffineMap` version of `LinearMap.single`, `AddMonoidHom.single` and `Pi.single`. -/
+def single [DecidableEq ι] (i : ι) : φv i →ᵃ[k] (j : ι) → φv j :=
+  { toFun := Pi.single i
+    linear := LinearMap.single i
+    map_vadd' := fun _ _ ↦ Pi.single_add i _ _
+  }
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:842]: I don't think this is worth having; we should already have that every linear map is also an affine map

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 4]
```diff
@@ -757,6 +771,124 @@ def toConstProdLinearMap : (V1 →ᵃ[k] V2) ≃ₗ[R] V2 × (V1 →ₗ[k] V2) w
...
+
+theorem proj_pi (i : ι) : (proj i).comp (pi fp) = fp i :=
+  ext fun _ => rfl
+
+/-- An ι-indexed collection of AffineMaps `P1 →ᵃ P2` lifts to an AffineMap from P1 to the
+  Module of functions, `ι → P2`. This module is `Pi.module`. This is the AffineMap analog
+  of `LinearMap.pi`. Actually defeq to `AffineMap.pi` but the type signature is
+  much easier to read.
+-/
+def pi' : (ι → (P1 →ᵃ[k] P2)) → P1 →ᵃ[k] (ι → P2) := pi
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:819]: I doubt we actually want this, but if we did it would be as an `abbrev` which would remove the need for any of the lemmas below.

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 5]
```diff
@@ -757,6 +771,124 @@ def toConstProdLinearMap : (V1 →ᵃ[k] V2) ≃ₗ[R] V2 × (V1 →ₗ[k] V2) w
...
+    have s₂ := f.map_vadd 0 (Pi.single i x)
+    have s₃ := g.map_vadd 0 (Pi.single i x)
+    rw [vadd_eq_add, add_zero] at s₂ s₃
+    replace h₂ := h i 0
+    simp at h₂
+    rwa [s₂, s₃, h₂, vadd_right_cancel_iff] at s₁
+  next =>
+    exact h₂
+
+/- Two affine maps from a Pi-tyoe of modules `(i : ι) → φv i` are equal if they are equal in their
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:871]:
```suggestion
/-- Two affine maps from a Pi-tyoe of modules `(i : ι) → φv i` are equal if they are equal in their
```
so that this shows up in the docs

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 6]
```diff
@@ -757,6 +771,124 @@ def toConstProdLinearMap : (V1 →ᵃ[k] V2) ≃ₗ[R] V2 × (V1 →ₗ[k] V2) w
...
+  apply pi_ext_zero h
+  rw [← Pi.single_zero]
+  apply h
+  inhabit ι
+  exact default
+
+/-- This is used as the ext lemma instead of `AffineMap.pi_ext_nonempty` for reasons explained in
+note [partially-applied ext lemmas]. -/
+@[ext]
+theorem pi_ext_nonempty' [Nonempty ι] (h : ∀ i, f.comp (single i) = g.comp (single i)) : f = g := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:884]: Do we have a linear map version of this? If so, can you mention it in the docstring?

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 7]
```diff
@@ -159,6 +159,20 @@ protected theorem congr_fun {f g : P1 →ᵃ[k] P2} (h : f = g) (x : P1) : f x =
...
+  have hgl : g.linear (q -ᵥ p) = toFun g ((q -ᵥ p) +ᵥ q) -ᵥ toFun g q := by simp
+  have := f.map_vadd' q (q -ᵥ p)
+  rw [h₁, hgl, toFun_eq_coe, map_vadd, linearMap_vsub, h₂] at this
+  simp at this
+  exact this
+
+/-- Two affine maps are equal if they have equal linear maps and are equal at some point. -/
+theorem ext_linear_iff {f g : P1 →ᵃ[k] P2} : f = g ↔ (f.2 = g.2) ∧ (∃ p, f p = g p) :=
+  ⟨fun h ↦ ⟨congrArg _ h, ⟨by inhabit P1; exact default, by rw [h]⟩⟩
+  , fun h ↦ Exists.casesOn h.2 fun _ hp ↦ ext_linear h.1 hp⟩
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:174]: nit:
```suggestion
  ⟨fun h ↦ ⟨congrArg _ h, by inhabit P1; exact default, by rw [h]⟩,
   fun h ↦ Exists.casesOn h.2 fun _ hp ↦ ext_linear h.1 hp⟩
```
is probably how we'd usually format this.

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 8]
```diff
@@ -757,6 +771,124 @@ def toConstProdLinearMap : (V1 →ᵃ[k] V2) ≃ₗ[R] V2 × (V1 →ₗ[k] V2) w
...
+--fp for when the image is a dependent AffineSpace φp i, fv for when the
+--image is a Module φv i, f' for when the image isn't dependent.
+variable (fp : (i : ι) → (P1 →ᵃ[k] φp i)) (fv : (i : ι) → (P1 →ᵃ[k] φv i))
+  (f' : ι → P1 →ᵃ[k] P2)
+
+@[simp]
+theorem pi_apply (c : P1) (i : ι) : pi fp c i = fp i c :=
+  rfl
+
+theorem pi_comp {V3 P3 : Type*} [AddCommGroup V3] [Module k V3] [AffineSpace V3 P3]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:800]: Can you hoist `V3` and `P3` to the variables line?

**Review by eric-wieser — COMMENTED** [review]
This generally looks good, thanks; just some small things to clean up.

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 9]
```diff
@@ -757,6 +771,124 @@ def toConstProdLinearMap : (V1 →ᵃ[k] V2) ≃ₗ[R] V2 × (V1 →ₗ[k] V2) w
...
+-- and the AffineSpace P. This leads to pretty unreadable / un-loogle-able type signatures,
+-- so a non-dependent pi construction pi' is also given with corresponding theorems.
+
+variable {ι : Type*} {φv φp : ι → Type*} [(i : ι) → AddCommGroup (φv i)]
+  [(i : ι) → Module k (φv i)] [(i : ι) → AffineSpace (φv i) (φp i)]
+
+/-- The dependently-typed version of `AffineMap.pi`, where the module `V1 := φv i` and the
+ AffineSpace `P2 := φp i` can depend on the index `i : ι`.
+-/
+def pi (f : (i : ι) → (P1 →ᵃ[k] φp i)) : P1 →ᵃ[k] ((i : ι) → φp i) where
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:786]: Oops, I meant to write "dependently typed version of `AffineMap.pi'`." The `pi'`, with the tick, is the more readable one with no types depending on `i`.

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean (hunk 4 above)
Comment (Timeroot) [reply Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:819]: Changed to `abbrev`

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean (hunk 3 above)
Comment (Timeroot) [reply Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean]: dropped

**Comment by Timeroot** [comment]
@eric-wieser Anything else you need from me here?

**Comment by Timeroot** [comment]
@eric-wieser Just bumping this, is this ok to merge?

**Comment by eric-wieser** [comment]
Sorry for dropping the ball @Timeroot; on reflection I think that we don't want the primed `pi'`, since we don't have any analogs of it in other categories. I'll push a commit to remove it, since I have the branch open.

**Comment by eric-wieser** [comment]
bors d+

Please merge once CI is happy.

Sorry again for forgetting about this, don't hesitate to ping on Zulip next time.

**Comment by Timeroot** [comment]
No worries, thanks for taking a look! :)
